Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nystatin / Gadolinium-Containing Contrast Media / shellfish 
derived / metronidazole / vancomycin
 
Attending: ___.
 
Chief Complaint:
sore throat, fever, chills
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ y/o F w/ PMHx notable for dysautonomia 
autoimmune neuropathy on IVIG, carcinoid tumor in lung s/p 
resection who presents with nasal congestion, sore throat, 
myalgias, subjective fevers and chills for three days. Her 
partner/fiancé also having similar symptoms and reportedly got 
better in a day. 

Of note, patient s/p IVIG for autoimmune small fiber neuropathy 
on ___, after the onset of her symptoms. She did not notice any 
changes prior to that. 

# Sore throat / myalgias / fevers / chills: On ___ developed 
"swollen glands" in her neck in setting of her partner, ___, 
having just recently had sore throat and URI-type symptoms. She 
was concerned she might be catching whatever he had. On ___, 
sore throat began and she had subjective fevers (but measured 
temperature was normal).  On ___, sore throat not bothering her 
much, but she did have some lethargy.  On ___, she got her 
scheduled IVIG and noted that her sore throat became severe. She 
developed sneezing, runny nose, and sputum production from the 
nose.  On ___ she developed chills and measured her temperature 
at 99.4 and presented to the ___ ED.  On presentation to the 
emergency department she had tachycardia into the 120s and her 
first temperature was 99.4. Her Tmax in the ED was 100.2. Her 
CXR was not suggestive of PNA and her UA was clean.  Blood Cx 
from ED were NGTD.  She presented to the medical floor on the 
morning of ___ and on initial evaluation was feeling 
significantly better, reporting that her chills and muscle aches 
were improving, but that her sore throat was worsening. She 
reported that Tylenol and ibuprofen in the ED were particularly 
helpful for her pain.

# ___ ulcer: patient had burning "rectal pain" with BMs on 
___, associated with "swollen glands" in her neck and 
subjective fevers (but no measured fever) on ___ burning 
rectal pain worsened on ___ and patient had her partner examine 
her anus and ___ region. They found a small ~3 mm 
ulcerating erythematous lesion in the area she was having pain. 
At which point she started taking Valtrex (she has hx of labial 
herpes and oral herpes for which she has standing Rx for PRN 
valacyclovir), however she only took 1 or 2 doses prior to 
presenting to the hospital with severe sore throat, chills, and 
subjective fever with temperature measured at 99.4 F at home.

# Chronic medical issues:
She reports her "autoimmune symptoms" are stable/improving with 
IVIG and that her "mast-cell activation symptoms" are doing 
really well as well. Says she has stopped taking cromyln for the 
past ___ weeks because she has been so well-controlled in this 
regard.  Says that she has experienced such an improvement in 
her symptoms and quality of life over the past few months, that 
she is hoping she will be able to return to working in the 
not-too-distant future.

ROS: 10 systems reviewed and negative except as noted above.
 
Past Medical History:
# Autoimmune autonomic neuropathy initiated on IVIG 
# Small-fiber polyneuropathy
  # Dysautonomia
  # Bladder neck dyssynergia / Neurogenic bladder
  # Dyssynergia between rectum and anal sphincter
# Possible mast-cell activation syndrome: unclear if this Dx has 
been confirmed
# Chronic insomnia
# Marijuana use (smoking): every-other day use since at least 
___
# Genital herpes
# Hx of RUL carcinoid lung cancer in ___ s/p right lower 
lobectomy, with some nodules that have been followed and are 
stable. She also reports recent normal chromogranin A and 
5-HIAA.
# Per prior PMHx in POE (not confirmed): Delusional disorder 
previously on cymbalta and risperidone, requiring numerous 
psychiatric hospitalizations
 
Social History:
-Lives in ___ with fiancé and roommates. (Recently moved 
in with her partner/fiancé Milt).
-Used to work in human services, on disability since ___, but 
says she is hoping to return to work in the coming months as she 
has been feeling so much better w/ IVIG.
-Says she is a never smoker
-Denies any ongoing alcohol use, says that since ___ 
she gets severe facial flushing with any alcohol intake, so 
avoids alcohol now.
-Uses marijuana: says she smokes marijuana approximately once 
every other day, that it "helps a lot" with her dysautonomia 
symptoms.
-Denies any other recreational drug use
-Endorses daily herbal/supplement use including: multivitamin, 
fish oil, B12 (liquid formulation), acetyl-L-carinitine, and 
alpha-lipoic acid. Says she also takes some others, on occasion, 
but not regularly.

 
Family History:
She reports her father had DM2 c/b peripheral neuropathy.
She reports her mother has no major medical ailments.
She reports her 2 sisters have no major medical ailments.
Per chart review: mother with schizophrenia and father with 
bipolar disorder.
 
Physical Exam:
Gen: awake and in NAD laying in bed, appears well
HEENT: anicteric sclera, EOMI, PERRL, oropharynx is clear with 
no erythema, exudates, or swollen glands; no tongue lesions, no 
apparent lesions on the hard palate or soft palate or under the 
tongue, dentition is normal
Neck: very mild submaxillary and anterior cervical 
lymphadenopathy w/ mild tenderness to palpation, no posterior 
cervical LAD or supraclavicular LAD
Chest: CTAB, normal WOB
Cards: RR, no m/r/g appreciated, S1S2 present
Abd: S, NT, ND, BS+
Neuro/MSK: moving all 4s with grossly normal strength and 
coordination; able to sit up in bed without assistance
Skin: relatively pale, no jaundice, no rashes or skin lesions 
visible on arms, legs, chest, abdomen, back, face, or neck.
GU: anogenital area inspected and no ulcers, lesions, or 
pustules visualized
Psych: calm, cooperative
 
Pertinent Results:
Admission labs: reviewed and notable for mild neutrophilic 
leukocytosis.

___ 11:05PM BLOOD WBC-11.4* RBC-4.42 Hgb-13.7 Hct-41.1 
MCV-93 MCH-31.0 MCHC-33.3 RDW-12.1 RDWSD-41.0 Plt ___
___ 11:05PM BLOOD Neuts-75.5* Lymphs-12.5* Monos-7.6 
Eos-3.5 Baso-0.5 Im ___ AbsNeut-8.60* AbsLymp-1.42 
AbsMono-0.87* AbsEos-0.40 AbsBaso-0.06
___ 11:05PM BLOOD Glucose-86 UreaN-12 Creat-1.0 Na-140 
K-4.0 Cl-101 HCO3-26 AnGap-13
___ 11:05PM BLOOD ALT-32 AST-25 AlkPhos-105 TotBili-0.2
___ 11:05PM BLOOD Albumin-4.7
___ 11:12PM BLOOD Lactate-1.0

UA: no evidence for infection/inflammation

___ 11:45PM URINE Color-Straw Appear-Clear Sp ___
___ 11:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

Micro: reviewed
-___ UCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD

Imaging: reviewed
-___ CXR: no acute pathology; +hx of RLL lobectomy
 
Brief Hospital Course:
# ___ ulcer: patient had burning "rectal pain" with BMs on 
___, associated with "swollen glands" in her neck and 
subjective fevers (but no measured fever) on ___ burning 
rectal pain worsened on ___ and patient had her partner examine 
her anus and ___ region. They found a small ~3 mm 
ulcerating erythematous lesion in the area she was having pain 
(showed us a photograph of the lesion). At which point she 
started taking Valtrex (she has hx of labial herpes and oral 
herpes for which she has standing Rx for PRN valacyclovir), 
however she only took 1 or 2 doses prior to presenting to the 
hospital with severe sore throat, chills, and subjective fever 
with temperature measured at 99.4 F at home.  On examination of 
her genital & anal regions, she had no skin or mucous membrane 
ulcers, lesions, or pustules, so we were not able to send an HSV 
swab to confirm Dx of HSV recurrence.  We will treat empirically 
for 5 days with valacyclovir on discharge given her recent oral 
herpetic lesions (1 week ago) and the characteristic appearance 
of the ___ lesion (2 days ago) even though neither is 
currently present on exam, particularly given her sore throat & 
odynophagia could represent an esophageal HSV lesion (though her 
posterior oropharynx appeared normal on inspection).

# Sore throat / myalgias / fevers / chills: ___ developed 
"swollen glands" in her neck in setting of her partner, ___, 
having just recently had sore throat and URI-type symptoms. She 
was concerned she might be catching whatever he had. On ___, 
sore throat began and she had subjective fevers (but measured 
temperature was normal). On ___, sore throat not bothering her 
much, but she did have some lethargy. On ___, she got her 
scheduled IVIG and noted that her sore throat became severe. She 
developed sneezing, runny nose, and sputum production from the 
nose. On ___ she developed chills and measured her temperature 
at 99.4 and presented to the ___ ED. On presentation to the 
emergency department she had tachycardia into the 120s and her 
first temperature was 99.4. Her Tmax in the ED was 100.2. Her 
CXR was not suggestive of PNA and her UA was clean. Blood Cx 
from ED were NGTD. She presented to the medical floor on the 
morning of ___ and on initial evaluation was feeling 
significantly better, reporting that her chills and muscle aches 
were improving, but that her sore throat was worsening. She 
reported that Tylenol and ibuprofen in the ED were particularly 
helpful for her pain. On the medical floor she was given a trial 
of symptomatic treatment with Maalox/lido solution + cepacol 
lozenges + Tylenol + ibuprofen.  She was able to tolerate a 
regular diet on the day of discharge without severe odynophagia. 
 The patient felt that her constellation of symptoms was most 
likely due to a viral URI, and we agree.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO BID 
2. Montelukast 10 mg PO DAILY 
3. Gabapentin 200 mg PO BID:PRN burning pain 
4. DiphenhydrAMINE 25 mg PO Q6H:PRN flushing 
5. Ranitidine 150 mg PO BID 
6. Pyridostigmine Bromide 60 mg PO DAILY 
7. Immune Globulin Intravenous (Human) 25 g IV EVERY 2 WEEKS 
(TH) 
8. ValACYclovir 1000 mg PO ASDIR 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 
11. melatonin 5 mg oral QHS 
12. Probiotic Blend (___) 2 billion 
cell-50 mg oral DAILY 
13. Cyanocobalamin 500 mcg PO DAILY 
14. Acetyl-L-CARNitine (levOCARNitine HCl (bulk)) 500 mg oral 
DAILY 
15. alpha lipoic acid ___ mg oral DAILY 
16. Acetaminophen 325-650 mg PO BID:PRN Pain - Mild/Fever 
17. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# ___ ulcer: probable HSV lesion, now resolved
# Sore throat / fevers / muscle aches: probable viral URI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital with sore throat, fever, 
muscle aches, malaise, and a painful ___ ulcer.  You had 
labs checked, cultures drawn, and a chest X-ray performed.  
There is no clear evidence for a bacterial infection that would 
require antibiotics. We suspect your symptoms were due to a 
viral illness, which is resolving on its own.  The ___ 
ulcer had resolved by the time you were examined here in the 
hospital, so we were unable to send a swab to the lab to test 
for HSV (herpes simplex virus) to definitively assess if you 
were having a herpes flare; but we think it is a good idea to 
treat as if this is in fact an HSV flare with a total of 5 days 
of valacyclovir.  We recommend that you follow-up with your 
primary care physician in the next ___ weeks to assess for 
resolution of your symptoms.

We wish you the best.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___